* \\wsl$\Ubuntu-20.04\home\lukasnee\dev\git\1\fibration\modules\higgs\hardware\simulations\Draft1.asc
XU1 N001 0 N001 TL431
R1 N001 Vin 10k
V1 Vin 0 12
R2 Vka N001 10k
R3 Vka 0 100k
C1 Vka 0 1µ
.op
.lib TL431.mod
.backanno
.end
