* \\wsl$\Ubuntu-20.04\home\lukasnee\dev\git\1\fibration\modules\higgs\hardware\simulations\gateIn.asc
Rf MCU_GPIO_IN virt 68k
Roffset -AREF virt 200k
Rin virt GATE_EXT 100k
Cf MCU_GPIO_IN virt 100p
Rload MCU_GPIO_IN 0 40k
V1 VCC 0 12
V2 0 VEE 12
V3 3V3A 0 3.3
V5 GATE_EXT 0 Rser=50
XU1 0 virt 3V3A 0 MCU_GPIO_IN MCP6001
XU2 N002 VEE N002 TL431
R1 N002 0 6k8
R2 -AREF N002 6k8
R3 VEE -AREF 10k
C1 VEE -AREF 1µ
Rf1 MCU_ADC_IN N001 33k
Roffset1 -AREF N001 140k
Rin1 N001 GATE_EXT 100k
Cf1 MCU_ADC_IN N001 1n
Rload1 MCU_ADC_IN 0 1Meg
XU3 0 N001 3V3A 0 MCU_ADC_IN MCP6001
.dc V5 -12 12 .1
;options plotwinsize = 0
* in max range: [-12V 12V]\nout max range: [0V 3.3V]\nlinear inverse map: from in [0V 5V] to out [3.3V 0V]
.lib MCP6001.lib
.lib TL431.mod
.backanno
.end
