* \\wsl$\Ubuntu-20.04\home\lukasnee\dev\git\1\fibration\modules\higgs\hardware\simulations\triggerIn.asc
Rf MCU_ADC virt 56k
Roffset virt N001 200k
Rin virt EXT_IN 100k
Cf MCU_ADC virt 100p
V1 VCC 0 12
V2 0 VEE 12
V3 3V3A 0 3.3
V4 0 N001 10
V5 EXT_IN 0 SINE(0 3 1k) AC 1. Rser=50
XU3 0 virt 3V3A 0 MCU_ADC TLV6001
XU1 0 N002 3V3A 0 N003 TLV6001
Rload1 N003 0 40k
Rin1 N002 MCU_ADC 100k
Rin2 N003 N002 100k
.tran 2m
;options plotwinsize = 0
;ac oct 10 1 1meg
* 3v3 MCU GPIO input
;op 10m
.lib TLV6001.txt
.backanno
.end
